US08791303B2
Preparation of 2-(4-bromo-2,6-dimethyl-phenyl)-5-(cyclohexyl-hydroxy-methyl)-3-methoxy-cyclopent-2-enone
To a solution of 2-(4-bromo-2,6-dimethyl-phenyl)-3-methoxy-cyclopent-2-enone (1 g, 3.4 mmol) in 10 ml of dry tetrahydrofuran under nitrogen atmosphere at −78° C. LiHMDS (4.42 ml, 4.42 mmol) is added slowly and it is stirred at −78° C. for 40 minutes. A solution of cyclohexyl carboxaldehyde (761 mg, 6.8 mmol) in dry tetrahydrofuran (10 ml) is added to the reaction mixture at −78° C. The reaction mixture is stirred at this temperature for 2 hours and then at room temperature for 3 hours. The reaction mixture is quenched with water (50 ml) and the aqueous layer is extracted with ethyl acetate (3*100 ml). The combined organic layers are dried with sodium sulfate and concentrated under vacuum to obtain crude product which is directly taken to the next step without further purification.

reactant | 2-(4-bromo-2,6-dimethyl-phenyl)-3-methoxy-cyclopent-2-enone | 3.4 mmol, 1 g | BrC1=CC(=C(C(=C1)C)C=1C(CCC1OC)=O)C | C14H15BrO2
reactant | LiHMDS | 4.42 mmol, 4.42 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | cyclohexyl carboxaldehyde | 6.8 mmol, 761 mg | C1CCC(CC1)C=O | C7H12O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-bromo-2,6-dimethyl-phenyl)-5-(cyclohexyl-hydroxy-methyl)-3-methoxy-cyclopent-2-enone | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)C(O)C1CCCCC1)=O)C | C21H27BrO3
